US06689922B1
3-Hydroxymethyl-5-{2-[3-(5-hydroxy-5-methylhexyl)phenyl]vinyl}phenol
A solution of 0.3 ml of concentrated sulphuric acid in 5 ml of methanol is added to 600 mg (1.3 mmol) of 6-{3-[2-(3-ethoxymethoxy-5-ethoxymethoxyphenyl)vinyl]phenyl}2-methylhexan-2-ol in 5 ml of methanol and 5 ml of THF. After 4 hours at room temperature, water and ethyl acetate are added. The organic phase is washed several times with water and then dried over magnesium sulphate and concentrated. The residue is purified on a silica column (ethyl acetate 50-heptane 50).

reactant | sulphuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | 6-{3-[2-(3-ethoxymethoxy-5-ethoxymethoxyphenyl)vinyl]phenyl}2-methylhexan-2-ol | 1.3 mmol, 600 mg | C(C)OCOC=1C=C(C=C(C1)OCOCC)C=CC=1C=C(C=CC1)CCCCC(C)(O)C | C27H38O5
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanol | 5 ml | CO | CH4O
reactant | methanol | 5 ml | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-Hydroxymethyl-5-{2-[3-(5-hydroxy-5-methylhexyl)phenyl]vinyl}phenol | OCC=1C=C(C=C(C1)C=CC1=CC(=CC=C1)CCCCC(C)(C)O)O | C22H28O3
